US03971797
Step C: Preparation of 3-mercaptomethylpyridine-N-oxide
The thioureido compound (8 gm.) from Step B was refluxed in 50 ml. absolute ethanolic sodium hydroxide (6.5% w/v) for 4 hours under nitrogen, cooled and evaporated to dryness. The residue was dissolved in 50 ml. of water and 50 ml. of glacial acetic acid and evaporated to near dryness, and extracted with 4 × 40 ml. of chloroform. The chloroform was washed with 1 × 20 ml. of water, dried over magnesium sulfate, and treated with gaseous hydrogen chloride. The precipitate was collected, washed with acetone and dried to give 2.0 g. of 3-mercaptomethylpyridine-N-oxide hydrochloride, m.p. 184°-190°C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3-mercaptomethylpyridine-N-oxide hydrochloride | Cl.SCC=1C=[N+](C=CC1)[O-]
product | 3-mercaptomethylpyridine-N-oxide | SCC=1C=[N+](C=CC1)[O-] | C6H7NOS
